US05972965
To a solution of (2R)-2-(4,5-diphenyloxazol-2-yl)pyrrolidine (400 mg) and 3-bromomethyl-1-ethoxycarbonylmethoxybenzene (0.76 g) in N,N-dimethylformamide (10 ml) was added K2CO3 (1 g) at room temperature. The mixture was stirred for 2 hours at the same temperature and then partitioned between ethyl acetate and water. The organic layer was washed with water, sat. NaHCO3, and brine. The dried solvent was evaporated in vacuo and the residue was purified by chromatography on silica gel to give (2R)-2-(4,5-diphenyloxazol-2-yl)-1-(3-ethoxycarbonylmethoxybenzyl)pyrrolidine (0.27 g). MS (m/z): 483 (M+ +1) IR (Neat): 1750 cm-1NMR (CDCl3, δ): 1.25 (3H, t, J=7.0 Hz), 1.8-2.5 (5H, m), 3.14 (1H, m), 3.60 (1H, d, J=14 Hz), 3.84 (1H, m), 3.85 (1H, d, J=14 Hz), 4.23 (2H, q, J=7.0 Hz), 4.48 (2H, s), 6.71 (1H, d, J=8 Hz), 6.8-7.0 (2H, m), 7.16 (1H, t, J=8.0 Hz), 7.3-7.8 (16H, m)

reactant | (2R)-2-(4,5-diphenyloxazol-2-yl)pyrrolidine | 400 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@@H]1NCCC1 | C19H18N2O
reactant | 3-bromomethyl-1-ethoxycarbonylmethoxybenzene | 0.76 g | BrCC=1C=C(C=CC1)OCC(=O)OCC | C11H13BrO3
reactant | K2CO3 | 1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (2R)-2-(4,5-diphenyloxazol-2-yl)-1-(3-ethoxycarbonylmethoxybenzyl)pyrrolidine | 0.27 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@@H]1N(CCC1)CC1=CC(=CC=C1)OCC(=O)OCC | C30H30N2O4
